US08865863B2
Allyl 4-(paratoluenesulfonylamino)butanoate 9
γ-Aminobutyric acid (25.8 g, 250 mmol), allyl alcohol (100 mL, 1.50 mol) and p-toluenesulfonic acid (48.5 g, 255 mmol) were suspended in 100 mL of toluene and the suspension was refluxed for 16 h under a water separator. Subsequently, the orange solution was concentrated under reduced pressure. Following complete crystallization of the residue, it was thoroughly washed with diethyl ether (4×300 ml). The product was obtained as a colorless solid (77.8 g, 99%).

reactant | γ-Aminobutyric acid | 250 mmol, 25.8 g | NCCCC(=O)O | C4H9NO2
reactant | allyl alcohol | 1.50 mol, 100 mL | C(C=C)O | C3H6O
reactant | p-toluenesulfonic acid | 255 mmol, 48.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Allyl 4-(paratoluenesulfonylamino)butanoate | 77.8 g, 99% | C1(=CC=C(C=C1)S(=O)(=O)NCCCC(=O)OCC=C)C | C14H19NO4S
